US05780472
1-[(2-ethoxy-5-ethyl-6-methylpyridin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine
Phenyl-N-(2-ethoxy-5-ethyl-6-methylpyridin-3-yl)carbamate and 1-(2-methoxyphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl-N-(2-ethoxy-5-ethyl-6-methylpyridin-3-yl)carbamate | C1(=CC=CC=C1)OC(NC=1C(=NC(=C(C1)CC)C)OCC)=O | C17H20N2O3
reactant | 1-(2-methoxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | 1-[(2-ethoxy-5-ethyl-6-methylpyridin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine | yield: 82% | C(C)OC1=NC(=C(C=C1NC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC)CC)C | C22H30N4O3
